data/core_train_final.csv
"[H:9][C:8]([H:10])([H:11])[C:2]([CH3:1])([CH3:12])[CH2:3][CH2:4][CH:5]([CH3:6])[CH3:7].[Cl:13]>>[H:9][C:8]([H:10])[C:2]([CH3:12])([CH3:1])[CH2:3][CH2:4][CH:5]([CH3:6])[CH3:7].[H:11][Cl:13] 13-13,11;11,8-11,13;11,8-8",Room Temperature,Propagation,abstraction
"[O:20]=[C:21](C)C.[Mg:10]>>C[C:21](C)[O:20][Mg:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[C:21]1=[CH:20]CCC1.[Br:10]>>C[C:21]1CCC[CH:20]1[Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[O-:3][S:2](=[O:1])[O:4].[Na+:5]>>[O-:3][S:2](=[O:1])=[O:4].[Na+:5] 4-4,2; 2-2,4",Room Temperature,Propagation,resonance
"[H:20][Br:21].CC(=O)[O:10]>>[H:20][O:10]C(=O)C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(CC(=O)NC(C[S:20])C(=O)NCC(=O)[O-])C(C(=O)[O-])[NH3+].[O:10][O]>>C(CC(=O)NC(C[S:20][O:10][O])C(=O)NCC(=O)[O-])C(C(=O)[O-])[NH3+] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:20]=[CH:21]C1=CC=CC=C1.C1=CC=C(C=C1)[CH:10]COC(=O)C1=CC=CC=C1>>C1=CC=C(C=C1)[CH:21][CH2:20][CH:10](COC(=O)C1=CC=CC=C1)C2=CC=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H][C:10]([H])[H].[H]/[C:20]([H])=[C:21]([H])/[H]>>[CH2:21][C:20]([H])([H])[C:10]([H])([H])[H] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:12][C:11]1=[C:10]([CH:16]=[CH:15][CH:14]=[CH:13]1)[C:9]2[C:8](=[O:18])[C:7](=[O:19])[C:6]3=[C:4]([CH:3]=[C:2]([CH:21]=[C:20]3[O:17]2)[OH:1])[OH:5]>>[H:12][C:11]1[CH:13]=[CH:14][CH:15]=[CH:16][C:10]1=[C:9]2[C:8](=[O:18])[C:7](=[O:19])[C:6]3=[C:4]([CH:3]=[C:2]([CH:21]=[C:20]3[O:17]2)[OH:1])[OH:5] 9-9,10; 10,11-9,10; 10,11-11",Room Temperature,Propagation,resonance
"C[C:10](C)C.[Cl:20][Cl:21]>>C[C:10](C)(C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"O[O:10].[N:20]=O>>O[O:10][N:20]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C=CC=C1)Br.[Br:20][Br:21].[Ar]>>[Ar].CC1=C(C=CC=C1)Br.[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:3][C:2](=[CH2:1])[CH2:4][Br:5].[Br:6]>>[H:3][C:2]([CH2:1][Br:6])[CH2:4][Br:5] 6-1,6;1,2-2;2,1-1,6",Room Temperature,Propagation,addition
"COC(=O)[C:10](CCC1CCC[CH:21]=[CH:20]1)C(=O)OC>>COC(=O)[C:10]1(CCC2[CH:20]1[CH:21]CCC2)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1=CC=CC=C1.[Br:20][Br:21].[He]>>[He].CC1=CC=CC=C1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H]O[C:13]([CH2:12][CH2:11][CH:10]CCl)C1=CC=CC=C1>>[CH2:12]=[C:13](O[H])C2=CC=CC=C2.[CH2:11]=[CH:10]CCl 10-10,11;11,12-10,11;11,12-12,13;13-12,13",Room Temperature,Termination,retroaddition
"[H:5][C:4]([H:9])([CH2:3][C:2]([CH3:1])([CH3:10])[CH3:11])[CH:6]([CH3:7])[CH3:8].[Cl:12]>>[H:9][C:4]([CH2:3][C:2]([CH3:10])([CH3:1])[CH3:11])[CH:6]([CH3:7])[CH3:8].[H:5][Cl:12] 12-12,5;5,4-5,12;4,5-4",Room Temperature,Propagation,abstraction
"C/C(C[Sn](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)=C\[CH:10][CH:20]4C[C:21]4(C(OCC)=O)C(OCC)=O>>C/C(C[Sn](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)=C\[CH:10]=[CH:20]/C[C:21](C(OCC)=O)C(OCC)=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:4][C:3]([CH3:5])[CH:2]=[CH2:1].[H:7][Cl:6].[Cl:8]>>[H:4][C:3]([CH3:5])([CH:2]=[CH2:1])[Cl:8].[H:7][Cl:6] 8-3,8;3-3,8",Room Temperature,Termination,recombine
"[CH2:20]=[CH:21]C#N.C([CH:10]C#N)C(CS(=O)(=O)[O-])C#N>>[CH2:20]([CH:21]C#N)[CH:10](CC(CS(=O)(=O)[O-])C#N)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:1][C:2]1=[C:3]([CH:4]=[CH:5][CH:6]=[CH:7]1)[C:8]([C:9]2=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]2)[C:15]3=[CH:16][CH:17]=[CH:18][CH:19]=[CH:20]3>>[H:1][C:2]1[CH:7]=[CH:6][CH:5]=[CH:4][C:3]1=[C:8]([C:9]2=[CH:10][CH:11]=[CH:12][CH:13]=[CH:14]2)[C:15]3=[CH:16][CH:17]=[CH:18][CH:19]=[CH:20]3 8-3,8; 2,3-3,8; 2,3-2",Room Temperature,Propagation,resonance
"[H:34][C:27]([CH2:26][CH:19]([CH3:18])[C:20]1=[CH:21][CH:22]=[CH:23][CH:24]=[CH:25]1)[C:28]2=[CH:29][CH:30]=[CH:31][CH:32]=[CH:33]2.[H:9][C:2]([CH3:1])([CH2:10][CH2:11][C:12]1=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1)[C:3]2=[CH:4][CH:5]=[CH:6][CH:7]=[CH:8]2>>[H:34][C:27]([H:9])([CH2:26][CH:19]([CH3:18])[C:20]1=[CH:21][CH:22]=[CH:23][CH:24]=[CH:25]1)[C:28]2=[CH:29][CH:30]=[CH:31][CH:32]=[CH:33]2.[CH3:1][C:2]([CH2:10][CH2:11][C:12]1=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1)[C:3]2=[CH:4][CH:5]=[CH:6][CH:7]=[CH:8]2 27-27,9;2,9-9,27;2,9-2",Room Temperature,Propagation,abstraction
"[H:1][Sn:2]([CH2:3][CH2:4][CH2:5][CH3:6])([CH2:7][CH2:8][CH2:9][CH3:10])[CH2:11][CH2:12][CH2:13][CH3:14].[CH:16]1=[CH:15][CH:20]=[C:19][CH:18]=[CH:17]1>>[H:1][C:15]1=[CH:16][CH:17]=[CH:18][CH:19]=[CH:20]1.[CH3:6][CH2:5][CH2:4][CH2:3][Sn:2]([CH2:7][CH2:8][CH2:9][CH3:10])[CH2:11][CH2:12][CH2:13][CH3:14] 1,2-1,19;19-1,19;1,2-2",Room Temperature,Propagation,abstraction
